US06696110B1
A 1M solution of boron tribromide in dichloromethane (50 cm3) is added dropwise to a solution of 2-propyloxy-5-(4′-hexylbiphenyl-4-yl)thiophene [Zh. Org. Khim., (1979) Vol. 49, pp. 476] (1.0 g) and dichloromethane (50 cm3) at 0° C. under an atmosphere of nitrogen. The reaction solution is stirred overnight and water (100 cm3) added. The organic layer is separated off and the aqueous layer extracted with dichloromethane (2×100 cm3). The combined organic layers are washed with brine (2×100 cm3) and then dried (MgSO4), filtered and evaporated down. The residue is purified by column chromatography on silica gel using a 9:1 hexane/ethyl acetate mixture as eluent and recrystallisation from ethanol to yield 0.4 g of g 2-hydroxy-5-(4′-hexylbiphenyl-4-yl)thiophene.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2-propyloxy-5-(4′-hexylbiphenyl-4-yl)thiophene | C(CC)OC=1SC(=CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC | C25H30OS
reactant | water | 100 cm3 | O | H2O
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 2-hydroxy-5-(4′-hexylbiphenyl-4-yl)thiophene | 0.4 g | OC=1SC(=CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC | C22H24OS
